US04640920
4-(7-Chloro-4-quinazolinylamino)-N-[2-(1-pyrrolidinyl) ethyl]benzenesulphonamide
4-(7-Chloro-4-quinazolinylamino)benzene sulphonyl chloride, hydrochloride (3.5 g, 0.011 mole) was added portionwise to a well-stirred mixture of sodium carbonate (11.5 g) in water (120 ml) and N-(2-aminoethyl)-pyrrolidine (1.26 g, 0.01 mole) in chloroform (120 ml) at about 10° C. After 1 hour at room temperature, the mixture was filtered. The chloroform layer was separated, dried (MgSO4) and evaporated under reduced pressure to give a gum. Trituration from ethyl acetate gave a white solid (1.14 g) which could be crystallised from ethanol-water, m.p. 203°-204.5° C.

reactant | 4-(7-Chloro-4-quinazolinylamino)benzene sulphonyl chloride, hydrochloride | 0.011 mole, 3.5 g | Cl.ClC1=CC=C2C(=NC=NC2=C1)NC1=CC=C(C=C1)S(=O)(=O)Cl
reactant | sodium carbonate | 11.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-(2-aminoethyl)-pyrrolidine | 0.01 mole, 1.26 g | NCCN1CCCC1 | C6H14N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 120 ml | O | H2O
solvent | chloroform | 120 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(7-Chloro-4-quinazolinylamino)-N-[2-(1-pyrrolidinyl) ethyl]benzenesulphonamide | 1.14 g | ClC1=CC=C2C(=NC=NC2=C1)NC1=CC=C(C=C1)S(=O)(=O)NCCN1CCCC1 | C20H22ClN5O2S
